US09169259B2
To a stirred solution of methyl 3-(8-(6-(3,5-dimethylpiperidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoate hydrochloride (0.025 g, 0.055 mmol) in dioxane (10 mL) and H2O (5 mL) was added NaOH (22 mg, 0.55 mmol) at 40° C. After 2 h the mixture was washed with ether (10 mL) and the aqueous layer was adjusted to pH=4, then filtered. The solid was washed with ether and dried to afford 3-(8-(6-(3,5-dimethylpiperidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid (0.017 g, 70%) as a yellow solid. 1H NMR (300 MHz, DMSO): δ 9.99 (s, 1H), 8.67 (s, 1H), 8.52 (s, 1H), 8.35 (s, 1H), 8.19 (d, 1H, J=7.8 Hz), 8.09 (d, 1H, J=7.8 Hz), 7.84 (s, 1H), 7.71-7.49 (m, 2H), 6.76-6.72 (m, 1H), 6.52-6.48 (m, 1H), 4.22 (d, 1H, J=12.6 Hz), 3.65-3.59 (m, 1H), 3.28-3.21 (m, 1H), 2.33 (t, 1H, J=12.0 Hz), 1.92-1.41 (m, 4 h), 0.80-0.69 (m, 6H). LC-MS: [M+H]+, 443, tR=1.825 min, HPLC: 98.43% at 214 nm, 99.05% at 254 nm, tR=6.85 min.

reactant | methyl 3-(8-(6-(3,5-dimethylpiperidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoate hydrochloride | 0.055 mmol, 0.025 g | Cl.CC1CN(CC(C1)C)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C=1C=C(C(=O)OC)C=CC1)C=CN2
reactant | NaOH | 0.55 mmol, 22 mg | [OH-].[Na+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 5 mL | O | H2O
product | 3-(8-(6-(3,5-dimethylpiperidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid | 0.017 g, 70% | CC1CN(CC(C1)C)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C=1C=C(C(=O)O)C=CC1)C=CN2 | C25H26N6O2
